US04424222
A mixture of 5.5 g (0.0201 mol) of 11-chlorocarbonyl-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one, 6.9 g (0.06 mol) of 1-amino-4-methylpiperazine and 150 ml of anhydrous dioxane was heated for 30 minutes over a steam bath and the cloudy reaction mixture obtained was then mixed while still hot with 2 g of active charcoal, then filtered and the filtrate obtained was concentrated by evaporation in vacuo. The residue was purified by column chromatography on 300 g of silica gel, using a mixture of dichloromethane, methanol and conc. aqueous ammonia (ratio by volume 800:200:5). The residue remaining after the eluates of interest had been evaporated was recrystallized from ethanol. 1.5 g (19% of theory) of colorless crystals of 5,11-dihydro-11-[[(4-methyl-1-piperazinyl)amino]-carbonyl]-6H-pyrido[2,3-b]-[1,4]benzodiazepin-6-one hydrochloride hydrate was obtained,

reactant | 11-chlorocarbonyl-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 0.0201 mol, 5.5 g | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 1-amino-4-methylpiperazine | 0.06 mol, 6.9 g | NN1CCN(CC1)C | C5H13N3
reactant | charcoal | 2 g | C | CH4
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 5,11-dihydro-11-[[(4-methyl-1-piperazinyl)amino]-carbonyl]-6H-pyrido[2,3-b]-[1,4]benzodiazepin-6-one hydrochloride hydrate | O.Cl.CN1CCN(CC1)NC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | InChI=1S/C18H20N6O2.ClH.H2O/c1-22-9-11-23(12-10-22)21-18(26)24-15-7-3-2-5-13(15)17(25)20-14-6-4-8-19-16(14)24;;/h2-8H,9-12H2,1H3,(H,20,25)(H,21,26);1H;1H2
